US04593118
After dispersing 0.043 mol of ethyl 2-acetamido-3-aminobut-2-enoate in 25 ml of methanol together with 0.043 mol of sodium cyanoborohydride and a few drops of 0.04% bromcresol green indicator, the reaction mixture was cooled in ice, and 2M methanolic hydrochloric acid was added until the yellow color stabilized. The ice bath was removed, and the reaction was stirred for two hours, after which the solvent was removed and the reaction mixture worked up to provide ethyl 2-acetamido-3-aminobutyrate as a slightly greenish oil containing a 2.5/1 molar ratio of threo and erythro diastereomers.

reactant | ethyl 2-acetamido-3-aminobut-2-enoate | 0.043 mol | C(C)(=O)NC(C(=O)OCC)=C(C)N | C8H14N2O3
reactant | sodium cyanoborohydride | 0.043 mol | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
catalyst | bromcresol green | a few drops | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
product | ethyl 2-acetamido-3-aminobutyrate | C(C)(=O)NC(C(=O)OCC)C(C)N | C8H16N2O3
